* C:\Users\david\Desktop\École\Université\Undergrad\Work\finalproject\Real\Transients\OP_V-Sine_V_DC_R+(R__C__L)+R.asc
V1 N003 0 5
R1 N002 N001 0.1
R2 N005 0 0.1
R3 N005 N002 0.1
L1 N002 N004 1
C1 N002 N004 1
V2 N001 N003 SINE(0 5 1k)
.op
.backanno
.end
